US07417169B2
2-(4-Bromo-2,6-dimethylphenoxy)ethanol
Sodium borohydride (0.206 g) was added to a mixture of ethyl(4-bromo-2,6-dimethylphenoxy)acetate (0.782 g), tetrahydrofuran (5 mL) and ethanol (5 mL), and the mixture was stirred at room temperature for 4 hrs. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2) to afford the title compound (0.645 g).

reactant | Sodium borohydride | 0.206 g | [BH4-].[Na+]
reactant | ethyl(4-bromo-2,6-dimethylphenoxy)acetate | 0.782 g | C(C)OC(COC1=C(C=C(C=C1C)Br)C)=O | C12H15BrO3
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(4-Bromo-2,6-dimethylphenoxy)ethanol | 0.645 g | BrC1=CC(=C(OCCO)C(=C1)C)C | C10H13BrO2
